Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Robitussin A-C / gentamicin / Zofran (as hydrochloride) / 
lactose / coconuts
 
Attending: ___
 
Chief Complaint:
Dysuria
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with IBS, endometriosis and recent UTI
w/ organisms resistant to all but meropenem and macrobid, s/p 5
day macrobid course, now w/ recurrence of symptoms and slightly
positive UA, admitted to the medicine floor for initiation of IV
meropenem. 

Pt states that she has been suffering from symptoms of dysuria
and pelvic pain for nearly a year and it is significantly
decreasing her quality of life. She states that she completed a
course of Macrobid a few days ago and then today developed 
severe
dysuria with cloudy urine, prompting her to go to urgent care.
There, her UA was slightly positive with small leuks and ___
WBCs and occasional bacteria. She was re-prescribed Macrobid in
addition to AZO for pain control; she took these medications at
5PM. Then, at 11PM, she developed nausea, vomiting and chills 
and
ultimately came to the ___ ED. She is concerned that she will
not be able to take her antibiotics due to the nausea/vomiting.
She has tolerated AZO in the past so does not think this is what
caused her nausea. She also took her home medications (including
tramadol and gabapentin) and denies prior history of stomach
upset related to the medications.

On further questioning, pt denies fever or flank pain (though 
has
mild lower back MSK strain). She urinates before and after 
sexual
intercourse with her fiancé. She has been tested for STDs in the
past and all tests were negative. 

In the ED, initial vitals:  98.1, 90, 131/86, 16, 98% RA

- Exam notable for:  central abdominal pain
- Labs notable for:  WBC 7.7 (72.1% N0), Cr 0.6, U/A with +small
___ WBC/neg nitrite/occ ___ epi. UCx/BCx PND.
- Imaging notable for:  None
- Pt given: Zofran 4mg x1, 2L LR
- Vitals prior to transfer:  98.1, 90, 131/86, 16, 98% RA

Upon arrival to the floor, the patient reports improvement in 
her
nausea since receiving the Zofran, though is nervous to eat. She
continues to have urethral pain. 

 
Past Medical History:
1.  Irritable bowel syndrome
2.  Hash___'s thyroiditis, improved
3.  Endometriosis
4.  Pelvic floor dysfunction
5.  Interstitial cystitis (unclear diagnosis)
6. Chronic pelvic/bladder/urethral pain:
cystoscopy/hydrodistention/bladder biopsy wnl (___)
 
Social History:
___
Family History:
Her family history is unremarkable for Breast, Ovarian or Colon
cancer. Her mother has ___ and Scleroderma and her sister
has another autoimmune disorder (? thyroid). 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS:  24 HR Data (last updated ___ @ 447)
    Temp: 97.7 (Tm 97.7), BP: 125/77, HR: 92, RR: 18, O2 sat:
100%, O2 delivery: Ra, Wt: 96.5 lb/43.77 kg  
General: Thin female in no acute distress  
HEENT: dry lips
CV: borderline tachycardic, regular rhythm, no murmurs 
Lungs: CTAB
Abdomen: Soft, non-distended, mild tenderness to palpation in 
the
suprapubic area 
Back: no CVA tenderness
Ext: WWP, no edema 
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 

DISCHARGE PHYSICAL EXAM:
=======================
VS: 24 HR Data (last updated ___ @ 706)
    Temp: 97.3 (Tm 97.7), BP: 115/70 (115-125/70-77), HR: 78
(78-92), RR: 18, O2 sat: 99% (99-100), O2 delivery: Ra, Wt: 96.5
lb/43.77 kg  
General: Thin female in no acute distress  
HEENT: PERRL, EOMI, sclera anicteric, OP clear w/o lesions or
exudate, MMM
CV: RRR, no m/r/g
Lungs: CTAB, no w/r/r
Abdomen: S, ND, diffuse mild tenderness to deep palpation, most
notable in suprapubic, periumbilical, and epigastric area. No 
RUQ
tenderness, ___ negative. No rebound. No voluntary or
involuntary guarding. 
Back: mild L sided CVA tenderness
Ext: WWP, no c/c/e
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 
 
Pertinent Results:
ADMISSION LABS:
=============
___ 02:30AM BLOOD WBC-7.7 RBC-4.66 Hgb-13.2 Hct-40.9 MCV-88 
MCH-28.3 MCHC-32.3 RDW-12.0 RDWSD-38.6 Plt ___
___ 02:30AM BLOOD Neuts-72.1* ___ Monos-5.9 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-5.53 AbsLymp-1.58 
AbsMono-0.45 AbsEos-0.05 AbsBaso-0.03
___ 02:30AM BLOOD Glucose-94 UreaN-12 Creat-0.6 Na-141 
K-3.9 Cl-103 HCO3-27 AnGap-11
___ 02:30AM BLOOD Calcium-9.4 Phos-3.4 Mg-2.0

___ 03:43AM URINE Color-Yellow Appear-Clear Sp ___
___ 03:43AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-10* Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

DISCHARGE LABS:
==============
___ 06:25AM BLOOD WBC-7.0 RBC-4.36 Hgb-12.3 Hct-39.0 MCV-89 
MCH-28.2 MCHC-31.5* RDW-11.9 RDWSD-38.5 Plt ___
___ 06:25AM BLOOD Glucose-94 UreaN-8 Creat-0.6 Na-142 K-4.3 
Cl-106 HCO3-28 AnGap-8*
___ 06:25AM BLOOD Calcium-9.3 Phos-3.3 Mg-2.0

MICROBIOLOGY:
============
___ 3:43 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___: BLOOD CULTURE (x2) : NGTD

IMAGING:
=======
___ 5:01 ___ ___ RENAL U.S.
Right kidney measures 10.6 cm.  The left kidney measures 10.9 
cm.  There is no
hydronephrosis, stones, or masses bilaterally. Normal cortical 
echogenicity
and corticomedullary differentiation are seen bilaterally.
 
The bladder is moderately well distended and normal in 
appearance.  The
postvoid residual measures 8.2 cc.
 
IMPRESSION: 
Normal renal ultrasound.  No evidence of hydronephrosis.
 
Brief Hospital Course:
TRANSITIONAL ISSUES:
===================
[ ] Patient will need referral for pelvic physical therapy
[ ] Patient recommended to follow up with infectious disease at 
___ given her potential colonization of MDR E. Coli, and 
insterstitial cystitis which puts her at increased risk of 
recurrent infection. To consider suppression abx therapy. 
[ ] Patient with significant family h/o autoimmune disorders, 
personal h/o ___ thyroiditis, has had intermittent 
hematuria iso ICS, could potentially consider workup for 
autoimmune etiologies of overarching disease process. 
[ ] Plan to see urology with Dr. ___ expedited f/u of likely 
acute on chronic interstitial cystitis. 
[ ] Despite gabapentin, amitriptyline, tramadol, pain has 
continued to be difficult to control during acute exacerbations 
of likely interstitial cystitis. Recommend continued f/u with 
pain management. 

BRIEF HOSPITAL COURSE
=====================
___ h/o endometriosis, interstitial cystitis, recently dx UTI 
with cx positive E. Coli sensitive only to nitrofurantoin and 
meropenem presented with severe dysuria, persistent nausea. 
Initial c/f persistent UTI refractory to course of 
nitrofurantoin, given her sx of dysuria, frequency, urgency, 
however U/A on admission negative for infection. Ultimately felt 
most likely ___ to acute on chronic interstitial cystitis. 
Etiology of acute flare unclear at this time. Renal U/S 
performed was normal, no hydronephrosis. Infectious Disease 
consulted, expressed that there was no indication for 
antibiotics given her bland U/A, lack of fever, continued 
hemodynamic stability, and lack of leukocytosis. Further 
rationale to hold off on unnecessary nitrofurantoin to avoid 
resistance. More recent UCx from ___ positive for E. 
Coli, discussed this result with ID again who again agreed, 
given her bland U/A, that this was likely residual bacteria and 
not representative of active infection. She remained afebrile, 
hemodynamically stable, without any leukocytosis throughout her 
stay. She had vomited once during admission iso nausea and pain. 
Initially had poor po intake, placed on mIVF and given zofran 
with improvement in her nausea. Was able to tolerate regular po 
diet prior to discharge with improvement in her overall 
symptoms. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 100 mg PO QHS 
2. Nortriptyline 10 mg PO QHS 
3. Escitalopram Oxalate 10 mg PO DAILY 
4. TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
5. Ranitidine 300 mg PO QHS 
6. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze/SOB 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze/SOB  
2.  Escitalopram Oxalate 10 mg PO DAILY  
3.  Gabapentin 100 mg PO QHS  
4.  Nortriptyline 10 mg PO QHS  
5.  Ranitidine 300 mg PO QHS  
6.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
================
Interstitial Cystitis

SECONDARY DIAGNOSIS:
===================
Endometriosis
Irritable Bowel Syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital due to severe pain on urination, 
significant nausea, and concern for a persistent urinary tract 
infection (UTI). As we discussed, your symptoms certainly 
resembled a UTI, however the urine test and other labs provided 
evidence that you did not have an active infection. While you 
were here, we treated your symptoms of pain and nausea and 
obtained an ultrasound of your kidneys. This ultrasound was 
normal and did not show anything concerning. You had a decreased 
appetite and had vomited so we replaced fluids through your IV. 
Ultimately your symptoms improved and you were ready to leave 
the hospital. You should continue to follow up with your 
outpatient specialists for further evaluation of your symptoms 
as they are likely related to your chronic conditions. Please do 
not hesitate to return to the emergency department if you begin 
having fevers, chills, worsening nausea, vomiting, or pain.

We wish you the best, 
Your ___ Care Team 
 
Followup Instructions:
___